US08106070B2
1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-N-methyl-2-[4-(1-methyl-1H-pyrazol-4-yl)phenyl]ethanamine
1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (35 mg, 0.04 mmol) was added to a degassed, ambient temperature solution of 2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-N-methylethanamine (157 mg, 0.43 mmol), sodium carbonate (138 mg, 1.3 mmol) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (180 mg, 0.86 mmol) in N,N-dimethylformamide/water (2:1) (9 mL). After stirring at 80° C. overnight, the reaction mixture was cooled, diluted with water and extracted with diethyl ether. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. High pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid afforded the title compound. (M+H) found: 366.

reactant | 2-(4-bromophenyl)-1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-N-methylethanamine | 0.43 mmol, 157 mg | BrC1=CC=C(C=C1)CC(NC)C=1NC=C(N1)CC(CC)(C)C | C18H26BrN3
reactant | sodium carbonate | 1.3 mmol, 138 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.86 mmol, 180 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | N,N-dimethylformamide water | 9 mL | CN(C=O)C.O
solvent | water | O | H2O
product | 1-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-N-methyl-2-[4-(1-methyl-1H-pyrazol-4-yl)phenyl]ethanamine | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)C=1C=NN(C1)C)NC)(CC)C | C22H31N5
